US09353093B2
To the mixture of tert-butyl {5-[1-(aminocarbonyl)-1H-indol-2-yl]-3-thienyl}carbamate (20 mg, 0.056 mmol, 1 eq) in anhydrous DCM (1 mL) at 0° C. was added dropwise trifluoroacetic acid (0.2 mL) and the resulting reaction solution was stirred at 0° C. for 45 minutes. An additional trifluoroacetic acid (0.2 mL) was added followed by a stirring at room temperature for 15 minutes. The solution was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organic layer was isolated, washed once with brine, and dried with anhydrous sodium sulfate. The Upper solution was decanted, concentrated, and the brown oily residue was subject to a column chromatography (EtOAc-Hex 1:10 to 3:1) to yield 2-(4-amino-2-thienyl)-1H-indole-1-carboxamide as a yellow oil in amount of 11 mg.

reactant | tert-butyl {5-[1-(aminocarbonyl)-1H-indol-2-yl]-3-thienyl}carbamate | 0.056 mmol, 20 mg, 1 eq | NC(=O)N1C(=CC2=CC=CC=C12)C1=CC(=CS1)NC(OC(C)(C)C)=O | C18H19N3O3S
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-amino-2-thienyl)-1H-indole-1-carboxamide | NC=1C=C(SC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C13H11N3OS
